US07164042B2
Thus, advantageously, the hydrogen peroxide and the 2,2,4,4-tetramethyl-3-pentanone are introduced into or formed in the reaction medium as products resulting from the autoxidation by air or molecular oxygen of 2,2,4,4-tetramethyl-3-pentanol.

reactant | hydrogen peroxide | OO | H2O2
reactant | 2,2,4,4-tetramethyl-3-pentanone | CC(C)(C(C(C)(C)C)=O)C | C9H18O
product | 2,2,4,4-tetramethyl-3-pentanol | CC(C)(C(C(C)(C)C)O)C | C9H20O
